* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.param sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield__slope = 0.0
* statistics {
*   mismatch {
*     vary  sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield__slope dist=gauss std=0.00284
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield c0 c1 b
+ 
.param  mult = 1.0
+ 
+ ctot_a = {94.178e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield__cor+1.06027/sqrt(mult/0.34641)*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield__slope*94.178e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield__cor}
+ c0_sub = {5.222e-15*cli2s_vpp}
+ c1_sub = {2.528e-15*cli2s_vpp}
+ rat_m2 = 0.3823
+ rat_m1 = 0.3777
+ rat_li = 0.2400
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_li = {rat_li*ctot_a}
+ lm2 = 5.100
+ wm2 = 0.140
+ nfm2 = 72.0
+ nvia_c0 = 124.0
+ nvia_c1 = 62.0
+ lm1 = 5.215
+ wm1 = 0.140
+ nfm1 = 72.0
+ ncon_c0 = 116.0
+ ncon_c1 = 28.0
+ ll1 = 3.655
+ wl1 = 0.170
+ nfl1 = 62.0
rm21 c0 a1 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
ccmvpp11p5x11p7 a1 c1  c = {cap_m2}
rvia1 c0 d0 r = {rcvia/nvia_c0}
rvia2 c1 d1 r = {rcvia/nvia_c1}
rm11 d0 b1 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 b1 d1 c = {cap_m1}
rcon1 d0 e0 r = {rcl1/ncon_c0}
rcon2 d1 e1 r = {rcl1/ncon_c1}
rli1 e0 f1 r = {rl1*ll1/wl1*(1/3)*(1/nfl1)}
cli f1 e1 c = {cap_li}
cli1_b e0 b c = {c0_sub}
cli2_b e1 b c = {c1_sub}
.ends sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_noshield
